US20010006973A1
A stirred solution of 3-methylphthalic anhydride (2.96 g, 18.2 mmol), 3-aminopiperidine2,6-dione hydrogen chloride (3.00 g, 18.2 mmol) and sodium acetate (1.57 g, 19.1 mmol) in acetic acid (30 mL) was heated at reflux for 23 hours. The solvent was removed in vacuo to give a solid which was stirred with water (40 mL) for 1 hour, filtered, washed with water (30 mL), and then heated with decolorizing charcoal (1 g) in acetone (2 L) at reflux temperature for 30 min. The suspension was filtered through a pad of Celite to give a clear solution. The solvent of filtrate was removed in vacuo to give 2-(2,6-dioxopiperid-3-yl)-4-methylisoindoline-1,3-dione as a white solid (4.08 g, 82% yield)—mp 290.0-292.0° C.; 1H NMR (DMSO-d6); δ2.03-2.09 (m, 1H, CHH), 2.50-2.60 (m, 2H, CH2), 2.63 (s, 3H, CH3), 2.83-2.95 (m, IH, CHH), 5.13 (dd, J=5.4,12.3 Hz, IH, NCH), 7.65-7.79 (m, 3H, Ar), 11.13 (br s, IH, NH); 13C NMR (DMSO-d6) δ17.04, 21.99, 30.93, 48.76, 121.05, 127.89, 131.63, 134.37, 136.91, 137.61, 167.04, 167.83, 169.87, 172.74; Anal Calcd for C14H12N2O4 C, 61.76; H, 4.44; N, 10.29. Found: C, 61.68; H, 4.3 7; N, 10.17.

reactant | 3-methylphthalic anhydride | 18.2 mmol, 2.96 g | CC1=C2C(C(=O)OC2=O)=CC=C1 | C9H6O3
reactant | 3-aminopiperidine2,6-dione hydrogen chloride | 18.2 mmol, 3.00 g | Cl.NC1C(NC(CC1)=O)=O
reactant | sodium acetate | 19.1 mmol, 1.57 g | C(C)(=O)[O-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-(2,6-dioxopiperid-3-yl)-4-methylisoindoline-1,3-dione | 4.08 g, 82% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)C)=O)=O | C14H12N2O4
